US07572808B2
F. Preparation of 7-(4-chlorophenyl)-2-(methoxymethyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
To a degassed mixture of crude 7-bromo-2-(methoxymethyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (620 mg, 1.85 mmol), 4-chlorophenylboronic acid (850 mg, 5.55 mmol) and K2CO3 (1.02 g, 7.4 mmol) in 1,4-dioxane (18 mL) and H2O (6.0 mL) under argon at 20° C. was added Pd(PPh3)4 (107 mg, 0.093 mmol). The reaction mixture was refluxed for 15 h under argon and then cooled to 20° C. The reaction mixture was diluted with H2O (30 mL) and extracted with EtOAc (3×50 mL). The combined organic extract was washed with saturated aqueous NaHCO3 solution (20 mL), then brine (20 mL), dried over MgSO4, filtered and concentrated in vacuo. The crude product was purified by silica gel column chromatography eluting with a 0-60% gradient of EtOAc in hexanes to obtain the title compound as a yellow solid (510 mg, 1.39 mmol). MS: [M+H]+=367.1. 1H NMR (400 MHz, CDCl3) δ 3.46 (s, 3H), 5.32 (s, 2H), 6.62 (d, J=7.1 Hz 1H), 7.01-7.09 (m, 2H), 7.17-7.22 (m, 2H), 7.23-7.29 (m, 2H), 7.85 (d, J=7.1 Hz, 1H), 8.55 (d, J=4.40 Hz, 2H).

reactant | 7-bromo-2-(methoxymethyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 1.85 mmol, 620 mg | BrC1=C(C=2N(C=C1)C(N(N2)COC)=O)C2=CC=NC=C2 | C13H11BrN4O2
reactant | 4-chlorophenylboronic acid | 5.55 mmol, 850 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | K2CO3 | 7.4 mmol, 1.02 g | C(=O)([O-])[O-].[K+].[K+]
solvent | 1,4-dioxane | 18 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 6.0 mL | O | H2O
solvent | H2O | 30 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.093 mmol, 107 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 7-(4-chlorophenyl)-2-(methoxymethyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 1.39 mmol, 510 mg | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(N(N2)COC)=O)C2=CC=NC=C2 | C19H15ClN4O2
